US08809342B2
A 2M solution of HCl in diethyl ether (1 mL, 2 mmol) was added to a room temperature solution of methyl 6-(tert-butoxycarbonyl(4,4,4-trifluoro-1-(4′-(trifluoromethyl)biphenyl-4-yl)butyl)amino)nicotinate (30 mg, 0.051 mmol) in 1 mL dichloromethane. After 18 h, the solution was concentrated and the residue redissolved in 2 mL trifluoroacetic acid. After 2 h, the solution was concentrated under reduced pressure. The residue was dissolved in ethyl acetate and washed with saturated aqueous sodium bicarbonate. The organic layer was dried over MgSO4 and concentrated to give methyl 6-(4,4,4-trifluoro-1-(4′-(trifluoromethyl)biphenyl-4-yl)butylamino)nicotinate (18 mg, 73%) as a colorless film. 1H NMR (400 MHz, CDCl3) 8.72-8.74 (m, 1H), 7.94 (dd, J=8 Hz, 2.5 Hz, 2H), 7.61-7.70 (m, 4H), 7.57 (d, J=8.2 Hz, 2H), 7.42 (d, J=8.2 Hz, 2H), 6.29 (d, J=8.8 Hz, 1H), 5.40 (d, J=7.6 Hz, 1H), 4.90-5.01 (m, 1H), 3.83 (s, 3H), 2.06-2.36 (m, 4H).

reactant | HCl | Cl | ClH
reactant | diethyl ether | 2 mmol, 1 mL | C(C)OCC | C4H10O
reactant | methyl 6-(tert-butoxycarbonyl(4,4,4-trifluoro-1-(4′-(trifluoromethyl)biphenyl-4-yl)butyl)amino)nicotinate | 0.051 mmol, 30 mg | C(C)(C)(C)OC(=O)N(C1=NC=C(C(=O)OC)C=C1)C(CCC(F)(F)F)C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F | C29H28F6N2O4
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | methyl 6-(4,4,4-trifluoro-1-(4′-(trifluoromethyl)biphenyl-4-yl)butylamino)nicotinate | 18 mg, 73% | FC(CCC(C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)NC1=NC=C(C(=O)OC)C=C1)(F)F | C24H20F6N2O2
